US09303007B2
HATU (846 mg, 2.23 mmol) was added to a solution of (1R,3S,5R)-3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane (510 mg, 1.85 mmol), (S)-2-(methoxycarbonylamino)-2-(tetrahydro-2H-pyran-4-yl)acetic acid (483 mg, 2.23 mmol) and DIEA (3.24 mL, 18.5 mmol) in DMF (5 mL) and the reaction was stirred 2 h at room temperature. The reaction mixture was diluted with MeOH (5 mL) and water (5 mL). The volatiles were removed under vacuum and the residue was purified with flash chromatography (sample was dry loaded on silica gel and eluted with 0-100% ethyl acetate/hexanes then 10% MeOH/DCM) to afford the methyl (S)-2-((1R,3S,5R)-3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)-2-oxo-1-(tetrahydro-2H-pyran-4-yl)ethylcarbamate (370 mg, 0.780 mmol, 42.1% yield) as white foam. Impure material was further purified on reverse phase HPLC (water/methanol, 0.1% TFA) to afford the TFA salt of methyl (S)-2-((1R,3S,5R)-3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)-2-oxo-1-(tetrahydro-2H-pyran-4-yl)ethylcarbamate, (387 mg) as colorless oil. LC-MS retention time 0.690 min; m/z 474.95 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire C18 4.6×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% methanol/90% water/0.1% TFA and Solvent B was 10% water/90% methanol/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (TFA salt, 500 MHz, MeOD) δ ppm 7.58 (s, 1H), 5.04 (dd, J=9.2, 6.7 Hz, 1H), 4.56 (d, J=7.8 Hz, 1H), 3.96 (td, J=11.7, 3.1 Hz, 2H), 3.74-3.81 (m, 1H), 3.65-3.73 (m, 3H), 3.35-3.44 (m, 2H), 2.61 (dd, J=13.6, 9.3 Hz, 1H), 2.37 (ddd, J=13.6, 6.7, 6.5 Hz, 1H), 1.96-2.09 (m, 2H), 1.37-1.62 (m, 4H), 1.06 (dt, J=8.8, 5.9 Hz, 1H), 0.84 (td, J=5.6, 2.4 Hz, 1H).

reactant | HATU | 2.23 mmol, 846 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (1R,3S,5R)-3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane | 1.85 mmol, 510 mg | IC1=CN=C(N1)[C@H]1N[C@@H]2C[C@@H]2C1 | C8H10IN3
reactant | (S)-2-(methoxycarbonylamino)-2-(tetrahydro-2H-pyran-4-yl)acetic acid | 2.23 mmol, 483 mg | COC(=O)N[C@H](C(=O)O)C1CCOCC1 | C9H15NO5
reactant | DIEA | 18.5 mmol, 3.24 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
solvent | MeOH DCM | CO.C(Cl)Cl
product | methyl (S)-2-((1R,3S,5R)-3-(5-iodo-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexan-2-yl)-2-oxo-1-(tetrahydro-2H-pyran-4-yl)ethylcarbamate | 0.780 mmol, 370 mg, 42.1% yield | IC1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C([C@H](C1CCOCC1)NC(OC)=O)=O | C17H23IN4O4
